US07402670B2
(2R)-2-(2-hydroxy-ethyl)-azepane-1-carboxylic acid tert-butyl ester
This compound is prepared in a manner analogous to that described in Example 3, but 1-Boc-hexahydroazepine is used insead of 1-Boc-pyrrolidine.

reactant | 1-Boc-hexahydroazepine | C(=O)(OC(C)(C)C)N1CCCCCC1 | C11H21NO2
reactant | 1-Boc-pyrrolidine | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
product | (2R)-2-(2-hydroxy-ethyl)-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCCCC1)CCO | C13H25NO3
